US05840898
1,4-benzodioxan-6-amine, available from the Aldrich Chemical Company, Inc., 1001 West Saint Paul Avenue, Milwaukee, Wis. 53233, (160 g, 1.06 mol) is dissolved in dichloromethane (2.4 L) and cooled in an ice bath to less than 10° C. Boron trichloride gas (150 g, 1.27 mol, 1.2 eq) is added over 0.75 hour. The resulting brown slurry is then stirred overnight at room temperature. The slurry is then cooled in an ice bath to 10° C. and chloroacetonitrile (94 mL, 1.48 mol, 1.4 eq) is added in one portion. Gallium chloride (205 g, 1.16 mol, 1.1 eq) is dissolved in dichloromethane (310 mL) and added to the reaction over 0.5 h. The resulting brown slurry is then heated at reflux overnight (13-24 h). The brown solution is then cooled to rt and poured into a stirred mixture of dichloromethane (6.4 L)) and water (6.4 L). The mixture is stirred for 1.5 to 2 h to allow the solids to dissolve. The layers are then separated and the aqueous phase is extracted with dichloromethane (2 L). The organic layers are combined and concentrated under vacuum (about 100 mm Hg) to about 320 mL. (Crystallization occurs during the concentration.) Heptane (640 mL) is added over 1 hour and the slurry stirred overnight at room temperature. The slurry is filtered, washing the cake with heptane (200 mL). The cake is then dried overnight at 40° C. under high vacuum (about 1 mm Hg) to give 206 g (86%) of 1-(7-amino-2,3-dihydro-benzo[1,4]dioxin-6-yl)-2-chloro-ethanone as a yellow solid.

reactant | 1,4-benzodioxan-6-amine | O1CCOC2=C1C=CC(=C2)N | C8H9NO2
reactant | Boron trichloride | 1.27 mol, 150 g, 1.2 eq | B(Cl)(Cl)Cl | BCl3
reactant | chloroacetonitrile | 1.48 mol, 94 mL, 1.4 eq | ClCC#N | C2H2ClN
reactant | Gallium chloride | 1.16 mol, 205 g, 1.1 eq | [Cl-].[Ga+3].[Cl-].[Cl-]
reactant | water | 6.4 L | O | H2O
solvent | dichloromethane | 2.4 L | ClCCl | CH2Cl2
solvent | dichloromethane | 310 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 6.4 L | ClCCl | CH2Cl2
product | 1-(7-amino-2,3-dihydro-benzo[1,4]dioxin-6-yl)-2-chloro-ethanone | 206 g, 86% | NC=1C(=CC2=C(OCCO2)C1)C(CCl)=O | C10H10ClNO3
